US06391907B1
A solution of 5-bromo-3-methoxy-3-methyl-1,3-dihydro-indol-2-one (0.52 g, 2.0 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.12 g, 0.1 mmol) was dissolved in dimethoxyethane (22 cm3). After 15 min., 3-chlorophenylboronic acid (0.63 g, 4.1 mmol) and sodium carbonate (1.0 g) in water (10 cm3) was added and the reaction was heated under reflux. After 2 h the mixture was cooled, poured into water and extracted with EtOAc (×2), the combined organic extracts were washed with sodium hydroxide solution (1N, ×2) water, brine, dried (MgSO4) and evaporated. The residue was then purified by column chromatography (SiO2, EtOAc:hexane, 5:1) to afford 5-(3-chloro-phenyl)-3-methoxy-3-methyl-1,3-dihydro-indol-2-one (0.17 g, 0.58 mmol, 29%): 1H NMR (CDCl3) δ1.65 (s, 3H), 2.91 (s, 1H), 3.24 (s, 3H), 6.92 (d, 1H, J=8.1 Hz), 7.26-7.38 (m, 2H), 7.43-7.46 (m, 1H), 7.52-7.55 (m, 1H), 7.62 (d, 1H, J=1.8 Hz); MS ((+) APCI) m/z 288 (M +H)+.

reactant | 5-bromo-3-methoxy-3-methyl-1,3-dihydro-indol-2-one | 2.0 mmol, 0.52 g | BrC=1C=C2C(C(NC2=CC1)=O)(C)OC | C10H10BrNO2
reactant | 3-chlorophenylboronic acid | 4.1 mmol, 0.63 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 1.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 22 cm3 | C(OC)COC | C4H10O2
solvent | water | 10 cm3 | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-chloro-phenyl)-3-methoxy-3-methyl-1,3-dihydro-indol-2-one | 0.58 mmol, 0.17 g, 29% | ClC=1C=C(C=CC1)C=1C=C2C(C(NC2=CC1)=O)(C)OC | C16H14ClNO2
